US08431597B2
(2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-(methylsulfonyloxy)ethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate
Methanesulfonyl chloride (51.3 mg, 0.448 mmol) was added to a solution of (2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-hydroxyethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate (78 mg, 0.15 mmol) and DMAP (3.5 mg) in pyridine (1 mL) at 0° C. and the resulting mixture was stirred at room temperature for 5 hours. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated and dried over MgSO4 and concentrated to give a yellow solid, which was purified by Companion (ReadSep, 12 g, silica gel packed) with ethyl acetate/heptane from 30-70% to give title compound as a white solid 65 mg (73%). LC-MS: 601.1 (t=2.6 min).

reactant | Methanesulfonyl chloride | 0.448 mmol, 51.3 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-hydroxyethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate | 0.15 mmol, 78 mg | O1C2=C(OCC1)C=C(C=C2)C(=O)N[C@H]2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C2=NC1=C(N2CCO)C=CC=C1 | C28H34N4O6
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | DMAP | 3.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | (2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-(methylsulfonyloxy)ethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate | 65 mg, 73% | O1C2=C(OCC1)C=C(C=C2)C(=O)N[C@H]2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C2=NC1=C(N2CCOS(=O)(=O)C)C=CC=C1 | C29H36N4O8S
